US07179823B1
A mixture of 1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carbaldehyde (1.60 g), diethyl malonate (0.69 g), piperidine (0.12 ml), benzoic acid (0.09 g), and toluene (50 ml) was subjected to azeotropic dehydration for 1 hour. The reaction mixture was poured into dilute hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel chromatography to obtain a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). Sodium borohydride (105 mg) was added to a mixture of the obtained colorless oily substance, ethanol (20 ml), and tetrahydrofuran (20 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into dilute hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel chromatography to obtain diethyl [1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methylmalonate (1.76 g, yield: 83%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazole-4-carbaldehyde | 1.60 g | C1(=CC=CC=C1)C=1OC=C(N1)COC1=CC=C(CN2N=C(C(=C2)C=O)C=2SC=CC2)C=C1 | C25H19N3O3S
reactant | diethyl malonate | 0.69 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.12 ml | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.09 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl [1-[4-(2-phenyl-4-oxazolylmethoxy)benzyl]-3-(2-thienyl)-1H-pyrazol-4-yl]methylmalonate | 1.76 g, yield: 83% | C1(=CC=CC=C1)C=1OC=C(N1)COC1=CC=C(CN2N=C(C(=C2)CC(C(=O)OCC)C(=O)OCC)C=2SC=CC2)C=C1 | C32H31N3O6S
